US09216173B2
TFA (1.0 ml, 13 mmol) was added to a solution of tert-butyl [3-({6-cyano-5-[(4,6-dimethylpyridin-2-yl)amino]pyridin-3-yl}amino)-1-(methylamino)-1-oxopropan-2-yl]carbamate (72 mg, 0.16 mmol) in DCM (2 ml) at room temperature. After 30 minutes, the reaction mixture was concentrated under reduced pressure to afford 3-({6-cyano-5-[(4,6-dimethylpyridin-2-yl)amino]pyridin-3-yl}amino)-N-methylalaninamide. The material was used in the next step without purification. MS ESI calc'd. for C17H22N7O [M+H]+ 340. found 340.

reactant | TFA | 13 mmol, 1.0 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl [3-({6-cyano-5-[(4,6-dimethylpyridin-2-yl)amino]pyridin-3-yl}amino)-1-(methylamino)-1-oxopropan-2-yl]carbamate | 0.16 mmol, 72 mg | C(#N)C1=C(C=C(C=N1)NCC(C(=O)NC)NC(OC(C)(C)C)=O)NC1=NC(=CC(=C1)C)C | C22H29N7O3
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
product | 3-({6-cyano-5-[(4,6-dimethylpyridin-2-yl)amino]pyridin-3-yl}amino)-N-methylalaninamide | C(#N)C1=C(C=C(C=N1)NC[C@H](N)C(=O)NC)NC1=NC(=CC(=C1)C)C | C17H21N7O
